US04810713
α,α-Bis-(4-fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanol oxalate hydrate [1:1:0.5]
A mixture of 3.37 g (0.011 mole) of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol, 2.52 g (0.011 mole) of (3-bromopropoxy)benzene and sodium bicarbonate (0.92 g, 0.011 mole) in 200 ml of 1-butanol was heated overnight to reflux. The butanol was removed by the rotary evaporator, and the residue partitioned between chloroform and water. Removal of the chloroform in vacuo gave a dark brown oil, the free base of the title compound. The base was converted to the oxalate salt and recrystallized from methanol-diethyl ether to give 1.41 g (23.9%) of white solid, m.p. 153° C.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | 0.011 mole, 3.37 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | (3-bromopropoxy)benzene | 0.011 mole, 2.52 g | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | sodium bicarbonate | 0.011 mole, 0.92 g | C([O-])(O)=O.[Na+]
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | α,α-Bis-(4-fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanol oxalate hydrate | O.C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(O)(C1CCN(CC1)CCCOC1=CC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C27H29F2NO2.C2H2O4.H2O/c28-24-11-7-21(8-12-24)27(31,22-9-13-25(29)14-10-22)23-15-18-30(19-16-23)17-4-20-32-26-5-2-1-3-6-26;3-1(4)2(5)6;/h1-3,5-14,23,31H,4,15-20H2;(H,3,4)(H,5,6);1H2
